US06028223
Preparation of ethyl β-[[2-[[(3-nitrophenyl)carbonyl]amino]acetyl]amino]pyridine-3-propanoate
The same procedure used in the preparation of Example C was followed substituting an equivalent amount of DL-ethyl 3-amino-3-pyridyl propionate for ethyl beta-alanine hydrochloride. N,N'-Disuccinimidyl carbonate (14 g, 5.5 mmol) was added to 3-nitro-benzoyl glycine (10 g, 4.5 mmol) in dry dimethylformamide (30 mL) followed by dimethylaminopyridine (200 mg). After a period of 1 hour DL-ethyl 3-amino-3-(3-pyridyl) propionate dihydrochloride (13 g, 4.6 mmol) in 20% aqueous potassium carbonate (50 mL) was added in one portion. After complete reaction the product was collected by filtration (11.5 g, 80% yield). MS and 1H-NMR were consistent with the proposed structure.

reactant | ethyl beta-alanine hydrochloride | Cl.C(C)NCCC(=O)O
reactant | N,N'-Disuccinimidyl carbonate | 5.5 mmol, 14 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | 3-nitro-benzoyl glycine | 4.5 mmol, 10 g | [N+](=O)([O-])C=1C=C(C(=O)NCC(=O)O)C=CC1 | C9H8N2O5
reactant | dimethylaminopyridine | 200 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | potassium carbonate | 50 mL | C([O-])([O-])=O.[K+].[K+]
product | ethyl β-[[2-[[(3-nitrophenyl)carbonyl]amino]acetyl]amino]pyridine-3-propanoate | 80% yield | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)NCC(=O)NC(CC(=O)OCC)C=1C=NC=CC1 | C19H20N4O6
